US04871765
To 160 ml of acetonitrile were added 32.6 g of N-methanesulfonyl-N'-[2-[[5-[N-methyl-N-(trichloroacetyl)aminomethyl]-2-furyl]methylthio]ethyl]-O-phenylisourea, 13.8 g of DL-octopamine, 21 ml of triethylamine and 2.94 g of potassium acetate. The mixture was refluxed for 1 hour in a nitrogen atmosphere. After cooling, the solvent was removed by distillation under reduced pressure. To the residue thus obtained were added 250 ml of ethyl acetate and 150 ml of water. The mixture was adjusted to pH 2.0 with 2N hydrochloric acid. The organic layer was separated, washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue thus obtained was purified by a column chromatography (eluant: benzene:ethyl acetate=1:2) to obtain 29.9 g (yield: 83%) of N-[2-hydroxy-2-(4-hydroxyphenyl)ethyl]-N'-methanesulfonyl-N"-[2-[[5-[N-methyl-N-(trichloroacetyl)aminomethyl]-2-furyl]methylthio]ethyl]guanidine.

reactant | N-methanesulfonyl-N'-[2-[[5-[N-methyl-N-(trichloroacetyl)aminomethyl]-2-furyl]methylthio]ethyl]-O-phenylisourea | 32.6 g | CS(=O)(=O)NC(OC1=CC=CC=C1)=NCCSCC=1OC(=CC1)CN(C(C(Cl)(Cl)Cl)=O)C | C19H22Cl3N3O5S2
reactant | DL-octopamine | 13.8 g | C1=CC(=CC=C1[C@H](CN)O)O | C8H11NO2
reactant | potassium acetate | 2.94 g | C(C)(=O)[O-].[K+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | 150 ml | O | H2O
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 21 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 160 ml | C(C)#N | C2H3N
product | N-[2-hydroxy-2-(4-hydroxyphenyl)ethyl]-N'-methanesulfonyl-N"-[2-[[5-[N-methyl-N-(trichloroacetyl)aminomethyl]-2-furyl]methylthio]ethyl]guanidine | 29.9 g, yield: 83% | OC(CNC(=NCCSCC=1OC(=CC1)CN(C(C(Cl)(Cl)Cl)=O)C)NS(=O)(=O)C)C1=CC=C(C=C1)O | C21H27Cl3N4O6S2
